US04327095
Triethylamine (42 cc) is added, at about 15° C., to a suspension of 7-(5-chloropyrid-2-yl)-6-hydroxy-3-methoxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole (7.4 g) and 1-chlorocarbonyl-4-methylpiperazine hydrochloride (43.0 g) in anhydrous methylene chloride (215 cc), and anhydrous pyridine (90 cc) is then added to the resulting mixture. The reaction mixture is heated for 10 hours at 45° C. After cooling, the mixture is diluted by adding methylene chloride (250 cc). The organic phase is washed three times with an N aqueous sodium hydroxide solution (total 300 cc) and three times with distilled water (total 750 cc), dried over anhydrous sodium sulphate and evaporated. The residue is dissolved in boiling ethanol (50 cc). After cooling the solution for 20 hours at 2° C., the resulting crystals are filtered off, washed three times with ice-cooled ethanol (total 30 cc) and dried under reduced pressure (20 mm Hg). The resulting product (5.1 g; m.p. 197° C.) is dissolved in boiling ethanol (80 cc). After filtering the boiling solution and then cooling the filtrate for 16 hours at 2° C., the resulting crystals are filtered off, washed with ice-cooled ethanol (8 cc) and dried under reduced pressure (0.2 mm Hg) at 55° C. 7-(5-Chloropyrid-2-yl)-3-methoxy-6-(4-methylpiperazin-1-yl)carbonyloxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]-pyrrole (3.2 g), which melts at 199° C., is obtained.

reactant | Triethylamine | 42 cc | C(C)N(CC)CC | C6H15N
reactant | 7-(5-chloropyrid-2-yl)-6-hydroxy-3-methoxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole | 7.4 g | ClC=1C=CC(=NC1)N1C(C2=C(C1O)SCC(CS2)OC)=O | C13H13ClN2O3S2
reactant | 1-chlorocarbonyl-4-methylpiperazine hydrochloride | 43.0 g | Cl.ClC(=O)N1CCN(CC1)C
reactant | pyridine | 90 cc | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 215 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 cc | C(Cl)Cl | CH2Cl2
product | 7-(5-Chloropyrid-2-yl)-3-methoxy-6-(4-methylpiperazin-1-yl)carbonyloxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]-pyrrole | 3.2 g | ClC=1C=CC(=NC1)N1C(C2=C(C1OC(=O)N1CCN(CC1)C)SCC(CS2)OC)=O | C19H23ClN4O4S2
